US07700655B2
(1) 5-Chlorosalicylhydrazide
A mixture of 5-chloro-2-hydroxybenzoic acid methyl ester (0.50 g, 2.7 mmol), hydrazine monohydrate (0.3 mL, 6.2 mmol) and ethanol (5 mL) was refluxed for 6 hours. After the reaction mixture was cooled to room temperature, n-hexane was added and the separated crystal was filtered to give the title compound (395.9 mg, 79.2%) as a white crystal.

reactant | 5-chloro-2-hydroxybenzoic acid methyl ester | 2.7 mmol, 0.50 g | COC(C1=C(C=CC(=C1)Cl)O)=O | C8H7ClO3
reactant | hydrazine monohydrate | 6.2 mmol, 0.3 mL | O.NN
reactant | ethanol | 5 mL | C(C)O | C2H6O
solvent | n-hexane | CCCCCC | C6H14
product | 5-Chlorosalicylhydrazide | 395.9 mg, 79.2% | ClC1=CC=C(C(C(=O)NN)=C1)O | C7H7ClN2O2
